US08232286B2
N-(8-NITRO-4,5-DIHYDRO-3H-1λ4-NAPHTHO[2,1-d]THIAZOL-2-YL)-ACETAMIDE
0.8 g (10.0 mmol) sodium acetate and 1.9 g (9.40 mmol) 7-nitro-3,4-dihydro-1H-naphthalen-2-one (prepared according to D. E. Nichols et al., J. Med. Chem. 1989, 32, 2128-2134) are dissolved in 40 ml acetic acid and cooled to 15° C. 0.5 g (3.19 mmol) bromine are added and the mixture is stirred for 0.1 hours, until the bromine has finished reacting completely. Then 0.8 g (10.5 mmol) thiourea are added. The reaction mixture is heated to 60° C. for 0.25 hours, then suction filtered and washed. The crystals are recrystallised from ethanol. Yield: 0.75 g (M.p.: 247-248° C.) 0.75 g (3.0 mmol) of the compound described previously are placed in 5 ml (49 mmol) acetic anhydride and refluxed for 0.1 hours. After cooling to ambient temperature the precipitate formed is suction filtered, washed with ethyl acetate and diethyl ether and dried. Yield: 0.8 g (M.p.: >315° C.)

reactant | sodium acetate | 10.0 mmol, 0.8 g | C(C)(=O)[O-].[Na+]
reactant | 7-nitro-3,4-dihydro-1H-naphthalen-2-one | 9.40 mmol, 1.9 g | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)=O | C10H9NO3
reactant | bromine | 3.19 mmol, 0.5 g | BrBr | Br2
reactant | thiourea | 10.5 mmol, 0.8 g | NC(=S)N | CH4N2S
reactant | acetic anhydride | 49 mmol, 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | N-(8-NITRO-4,5-DIHYDRO-3H-1λ4-NAPHTHO[2,1-d]THIAZOL-2-YL)-ACETAMIDE | [N+](=O)([O-])C1=CC=C2CCC=3NC(=SC3C2=C1)NC(C)=O | C13H13N3O3S
